US04602035
2-(3-Phenyl-2,3-dihydrobenzofuran-3-yl)-N-methylethylamine hydrochloride
Activated zinc (14 g, 215 mmole) was added in several portions to a solution of 22 g (54.4 mmole) of 2-(3-phenyl-2,3-dihydrobenzofuran-3-yl)-N-(2,2,2- trichloroethoxycarbonyl)-N-methylethylamine in 125 ml of glacial acetic acid under N2 while cooling the mixture with a water bath. After 1 hour at room temperature, the reaction mixture was diluted with 600 ml CH2Cl2 and filtered through celite, and the solids were washed with CH2Cl2. The combined organics were evaporated to dryness and the resultant oil taken up in 800 ml CH2Cl2. This was washed wit 50 ml saturated Na2CO3 and dried over MgSO4. Filtration and evaporation gave 12.9 g of an oil. This oil was converted to its hydrochloride salt in Et2O and the salt recrystallized from CH3CN to give 9.1 g (61%) of a solid, m.p. 184°-187°.

reactant | 2-(3-phenyl-2,3-dihydrobenzofuran-3-yl)-N-(2,2,2- trichloroethoxycarbonyl)-N-methylethylamine | 54.4 mmole, 22 g | C1(=CC=CC=C1)C1(COC2=C1C=CC=C2)CCN(C)C(=O)OCC(Cl)(Cl)Cl | C20H20Cl3NO3
solvent | acetic acid | 125 ml | C(C)(=O)O | C2H4O2
solvent | CH2Cl2 | 600 ml | C(Cl)Cl | CH2Cl2
catalyst | zinc | 215 mmole, 14 g | [Zn] | Zn
product | 2-(3-Phenyl-2,3-dihydrobenzofuran-3-yl)-N-methylethylamine hydrochloride | 12.9 g | Cl.C1(=CC=CC=C1)C1(COC2=C1C=CC=C2)CCNC | InChI=1S/C17H19NO.ClH/c1-18-12-11-17(14-7-3-2-4-8-14)13-19-16-10-6-5-9-15(16)17;/h2-10,18H,11-13H2,1H3;1H
